US06300353B1
To a solution of 1.35 g of 3,5-dimethyl-4-hydroxybenzaldehyde, 1.73 g of N-(tert-butoxycarbonyl)sarcosine and 0.2 g of 4-(N,N-dimethylamino)pyridine in 20 ml of dichloromethane was added 1.9 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and stirring was continued for 2.5 h at room temperature. The mixture was diluted with ethyl acetate and was washed with 0.25N HCl. The organic layer was dried over anhydrous sodium sulfate and concentrated to obtain 4-(tert-butoxycarbonylmethylamino)acetoxy-3,5-dimethylbenzaldehyde (2.9 g) as a yellow oil.

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 1.35 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | N-(tert-butoxycarbonyl)sarcosine | 1.73 g | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.9 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.2 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(tert-butoxycarbonylmethylamino)acetoxy-3,5-dimethylbenzaldehyde | 2.9 g | C(C)(C)(C)OC(=O)CNCC(=O)OC1=C(C=C(C=O)C=C1C)C | C17H23NO5
